US04681883
4-[3-[3-(Piperidinomethyl)phenoxy]propylamino]quinoline
3-[3-(Piperidinomethyl)phenoxy]propylamine (13.51 g) and 4-chloroquinoline (4.45 g) were heated with stirring at 155° C. for 21/2 hours. The cooled reaction mixture was dissolved in 2 Normal hydrochloric acid to pH 3-4 and the acidic solution was extracted with ethyl acetate. The aqueous solution was then basified to pH greater than 9 and was extracted with chloroform several times. The combined chloroform extracts were dried and evaporated to dryness to give the title compound as an oil. This was treated with maleic acid in ethanol to afford 4-[3-[3-(piperidionomethyl)phenoxy]propylamino]quinoline dimaleate (8.9 g), m.p. 127°-127.5° C. (recrystallised from isopropanol).

reactant | 3-[3-(Piperidinomethyl)phenoxy]propylamine | 13.51 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 4-chloroquinoline | 4.45 g | ClC1=CC=NC2=CC=CC=C12 | C9H6ClN
solvent | hydrochloric acid | Cl | ClH
product | 4-[3-[3-(Piperidinomethyl)phenoxy]propylamino]quinoline | N1(CCCCC1)CC=1C=C(OCCCNC2=CC=NC3=CC=CC=C23)C=CC1 | C24H29N3O
